US07645789B2
2-Methyl-2-(5-nitro-1H-indol-2-yl)propan-1-amine (137 mg, 0.587 mmol) was dissolved in THF (5 mL) and cooled to 0° C. Et3N (82 μL, 0.59 mmol) and di-tert-butyl dicarbonate (129 mg, 0.587 mmol) were added and the mixture was stirred at room temperature overnight. Water was added and the mixture was extracted with ethylacetate. The residue was purified by silica gel chromatography (10-40% ethylacetate in hexane) to give tert-butyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propylcarbamate (131 mg, 67%).

reactant | 2-Methyl-2-(5-nitro-1H-indol-2-yl)propan-1-amine | 0.587 mmol, 137 mg | CC(CN)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H15N3O2
reactant | Et3N | 0.59 mmol, 82 μL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.587 mmol, 129 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-methyl-2-(5-nitro-1H-indol-2-yl)propylcarbamate | 131 mg, 67% | CC(CNC(OC(C)(C)C)=O)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C17H23N3O4
